US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N2-cyclopropyl-N1-(3,5-dichlorophenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tertbutoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, 1,3-dichloro-5-isocyanatobenzene, and cyclopropylamine the title compound was obtained in 48% purity by LC/MS. MS(ESI+): m/z=427.6.

reactant | (2S,4EZ)-1-(tertbutoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-4-(tert-butoxyimino)-N2-cyclopropyl-N1-(3,5-dichlorophenyl)-1,2-pyrrolidinedicarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(=O)NC1=CC(=CC(=C1)Cl)Cl)C(=O)NC1CC1 | C19H24Cl2N4O3
